US06365592B1
Step 2 tert-Butyl 2-[4-({(3R, 5S, 6R)-4-{(benzyloxy)carbonyl}-2-Oxo-5,6-Diphenyl-1,4-Oxazinan-3-yl}methyl)Phenyl]-2,2-Difluoroacetate
To a cooled solution at −78° C. of benzyl (2R, 3S)-(−)-6 oxo-2,3 diphenyl-4 morpholine carboxylate (10.5 g) and tert butyl 2-{4-(bromomethyl)phenyl}-2,2-difluoroacetate (6.2 g) and HMPA 55 mL in THF 550 ml. was added LiHMDS (28 mL, 1 M in THF) over a period of 1 hour 20 minutes. The reaction mixture was stirred further at −78° C. for 1 hour.

reactant | benzyl (2R, 3S)-(−)-6 oxo-2,3 diphenyl-4 morpholine carboxylate | 10.5 g | O=C1O[C@@H]([C@@H](N(C1)C(=O)OCC1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C24H21NO4
reactant | tert butyl 2-{4-(bromomethyl)phenyl}-2,2-difluoroacetate | 6.2 g | BrCC1=CC=C(C=C1)C(C(=O)OC(C)(C)C)(F)F | C13H15BrF2O2
reactant | HMPA | 55 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | LiHMDS | 1 M, 28 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | 550 ml | C1CCOC1 | C4H8O
product | tert-Butyl 2-[4-({(3R, 5S, 6R)-4-{(benzyloxy)carbonyl}-2-Oxo-5,6-Diphenyl-1,4-Oxazinan-3-yl}methyl)Phenyl]-2,2-Difluoroacetate | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C(O[C@@H]([C@@H]1C1=CC=CC=C1)C1=CC=CC=C1)=O)CC1=CC=C(C=C1)C(C(=O)OC(C)(C)C)(F)F | C37H35F2NO6
